### PR TITLE
[Merged by Bors] - chore: Add floor_ofNat and ceil_ofNat

### PR DESCRIPTION
**Pull request by eric-wieser**
Also renames `Nat.floor_coe` to `floor_natCast`, leaving behind a deprecation.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Floor.lean [hunk 1]
```diff
@@ -163,20 +163,27 @@ theorem lt_floor_add_one (a : α) : a < ⌊a⌋₊ + 1 := by simpa using lt_succ
...
 @[simp]
-theorem floor_coe (n : ℕ) : ⌊(n : α)⌋₊ = n :=
+theorem floor_natCast (n : ℕ) : ⌊(n : α)⌋₊ = n :=
   eq_of_forall_le_iff fun a => by
     rw [le_floor_iff, Nat.cast_le]
     exact n.cast_nonneg
-#align nat.floor_coe Nat.floor_coe
+#align nat.floor_coe Nat.floor_natCast
+
+@[deprecated (since := "2024-06-08")] alias floor_coe := floor_natCast
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Floor.lean:172]: Have you heard about the new `deprecated alias` code snippet btw?

**Review by YaelDillies — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/Order/Floor.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Order/Floor.lean:172]: I used it here :)
